US05021571
In the first step, to a solution consisting of 125 ml (1 mole) trans 1,2-diaminocyclohexane and 400 ml dry THF was added 22 ml (96 mmol) di-tertbutyldicarbonate. The reaction was gently refluxed for 3 hr, cooled to room temperature and allowed to stand overnight. The reaction mixture was then filtered and concentrated under reduced pressure. The excess trans 1,2-diaminocyclohexane was recovered by vacuum distillation. The slurry remaining in the distillation flask was dissolved in ethyl acetate and purified by flash chromatography (silica gel, ethyl acetate as eluant), followed by recrystallization from ethyl ether to give 12.0 g (58%) of N-(t-butoxycarbonyl)-trans-1,2-diaminocyclohexane as a white solid mp 88°-91° C.

reactant | trans 1,2-diaminocyclohexane | 1 mole, 125 ml | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | di-tertbutyldicarbonate | 96 mmol, 22 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | N-(t-butoxycarbonyl)-trans-1,2-diaminocyclohexane | 12.0 g, 58% | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCCC1)N | C11H22N2O2
